US08735412B2
(RS)-S-(4-Aminophenyl)-S-methyl-N-(trifluoroacetyl)sulfoximide
292 mg palladium on charcoal (10%/50% moisture) was added to a solution of 1.34 g (4.52 mmol) (RS)-S-methyl-S-(4-nitrophenyl)-N (trifluoroacetyl)sulfoximide in 45 ml ethanol and 8 ml THF and was hydrogenated for 45 minutes under normal pressure at 24° C. The mixture was filtered and concentrated by evaporation. The residue obtained was stirred with diisopropyl ether. The solid was filtered off with suction and dried. 1.07 g (4.03 mmol; yield: 89%) of the product was obtained.

reactant | (RS)-S-methyl-S-(4-nitrophenyl)-N (trifluoroacetyl)sulfoximide | 4.52 mmol, 1.34 g | CS(=O)(=NC(C(F)(F)F)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C9H7F3N2O4S
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
catalyst | palladium on charcoal | 292 mg | [Pd] | Pd
solvent | ethanol | 45 ml | C(C)O | C2H6O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | (RS)-S-(4-Aminophenyl)-S-methyl-N-(trifluoroacetyl)sulfoximide | yield: 89% | NC1=CC=C(C=C1)S(=O)(=NC(C(F)(F)F)=O)C | C9H9F3N2O2S
